US06452006B1
456 g (2.25 mol) of diethyl isopropylmalonate, 650 ml of a 30% methanolic sodium methoxide solution and 910 ml of methanol are charged to a 2 liter reactor equipped with an anchor stirrer. The mixture is brought to reflux for thirty minutes before adding 135 g (2.25 mol) of urea in the solid form while maintaining the reflux. The reaction mixture at the end of the reaction is a thick white suspension which is brought to dryness by evaporation of the methanol under vacuum. The residue is taken up in 1370 ml of water and then filtered after cooling to 20° C. The filtrate is treated by addition of the amount of hydrochloric acid needed to bring the pH to 2-3, and the precipitate obtained is filtered off under cold conditions and washed with ice-cold water in order to obtain 267 g of 5-(1-methylethyl)pyrimidine-2,4,6(1H,3H,5H)-trione.

reactant | diethyl isopropylmalonate | 2.25 mol, 456 g | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | urea | 2.25 mol, 135 g | NC(=O)N | CH4N2O
solvent | methanol | 910 ml | CO | CH4O
product | 5-(1-methylethyl)pyrimidine-2,4,6(1H,3H,5H)-trione | 267 g, Yield=69% | CC(C)C1C(NC(NC1=O)=O)=O | C7H10N2O3
